US07629340B2
(S)-2-{4′-[(Cyclopropanecarbonyl-amino)-methyl]-biphenyl-3-ylcarbamoyl}-pyrrolidine-1-carboxylic acid benzyl ester (Compound 6308)
A solution of (S)-2-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester (93.8 mg, 0.21 mmol), cyclopropanecarboxylic acid 4-bromo-benzylamide (50.6 mg, 0.20 mmol), and Pd[P(Ph)3]4 (13.7 mg, 5.7 mol %) in methanol (2 mL), NaHCO3 (sat. aq., 300 μL), and DMF (400 μL) was degassed and heated to 70° C. overnight in a sealed vial. The reaction was cooled, filtered, and purified by reverse phase HPLC to give the desired product. Yield 15.0 mg. MS: 498.2 (M+H+); H1 NMR (DMSO-d6): δ (ppm) 0.61-0.79 (m, 4H), 1.56-1.69 (m, 3H), 2.11-2.35 (m, 1H), 3.38-3.59 (m, 2H), 4.25-4.43 (m, 3H), 4.89-5.15 (m, 2H), 7.00-7.65 (m, 12H), 7.85-7.95 (m, 1H), 8.51-8.63 (m, 1H), 10.07-10.16 (s, 1H).

reactant | (S)-2-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester | 0.21 mmol, 93.8 mg | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C(NC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)=O | C25H31BN2O5
reactant | cyclopropanecarboxylic acid 4-bromo-benzylamide | 0.20 mmol, 50.6 mg | BrC1=CC=C(CNC(=O)C2CC2)C=C1 | C11H12BrNO
reactant | DMF | 400 μL | CN(C)C=O | C3H7NO
solvent | methanol | 2 mL | CO | CH4O
solvent | NaHCO3 | 300 μL | C(=O)(O)[O-].[Na+]
product | (S)-2-{4′-[(Cyclopropanecarbonyl-amino)-methyl]-biphenyl-3-ylcarbamoyl}-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C(NC=1C=C(C=CC1)C1=CC=C(C=C1)CNC(=O)C1CC1)=O | C30H31N3O4
